US05716624
(a) Preparation of 3-methyl-4-iodobenzoic acid
20 g (0.132 mol) of 3-methyl-4-aminobenzoic acid and 175 ml of sulfuric acid (20%) were introduced into a three-necked flask. A solution of 11.9 g (0.172 mol) of sodium nitrite in 50 ml of water was added dropwise at -10° C. and stirring was carried out for two hours. This solution was introduced dropwise via a refrigerated dropping funnel at -50° C. into a solution of 35 g (0.211 mol) of potassium iodide, 35.2 g (0.185 mol) of copper iodide and 175 ml of sulfuric acid (20%). Stirring was carried out for eight hours, the reaction mixture was filtered and the solid obtained was dissolved in ethyl acetate. Washing was carried out with water and then with a sodium sulfite solution, drying was carried out over magnesium sulfate and evaporation was carried out. 24.4 g (70%) of 3-methyl-4-iodobenzoic acid, with a melting point of 205°-210° C., were recovered.

reactant | 3-methyl-4-aminobenzoic acid | 0.132 mol, 20 g | CC=1C=C(C(=O)O)C=CC1N | C8H9NO2
reactant | sulfuric acid | 175 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 0.172 mol, 11.9 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 0.211 mol, 35 g | [I-].[K+]
reactant | sulfuric acid | 175 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 50 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper iodide | 0.185 mol, 35.2 g | [Cu](I)I
product | 3-methyl-4-iodobenzoic acid | CC=1C=C(C(=O)O)C=CC1I | C8H7IO2
